US07592342B2
Preparation of N-{5-[3-(2-furanyl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide
A slurry of 7-bromo-2-chloroquioxaline (0.82 mmol), a boronic acid such as 2-furan boronic acid (0.82 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (1:1) (0.06 mmol), in 1,4-dioxane (4 ml) and 2M solution potassium carbonate (2 ml) was stirred at 100° C. for 3 hour. Then N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide (0.90 mmol) was added and the reaction mixture stirred at 100° C. for 18 hours. The reaction was cooled to ambient temperature, the organic layer separated and purified directly on silica by column chromatography (50% ethyl acetate/hexanes). The desired fractions were combined and concentrated to give the title compound (50 mg, 14%) as a tan solid. MS(ES)+ m/e 429.0 [M+H]+.

reactant | boronic acid | B(O)O | BH3O2
reactant | 2-furan boronic acid | 0.82 mmol | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | potassium carbonate | 2 ml | C([O-])([O-])=O.[K+].[K+]
reactant | N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide | 0.90 mmol | CC1(OB(OC1(C)C)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1)C | C17H21BN2O4S
reactant | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | N-{5-[3-(2-furanyl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide | 50 mg, 14% | O1C(=CC=C1)C=1C=NC2=CC=C(C=C2N1)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1 | C23H16N4O3S
